US05169431
A mixture of 4-amino-7-chloro-5-fluoro-2-methylbenzo[b]furan (3.4 g) and N,N-diethylaniline (2.6 g) was dissolved in tetrahydrofuran (20 ml), and methyl chlorocarbonate (1.6 g) was dropwise added thereto at room temperature. The resultant mixture was heated under reflux for 3 hours. After cooling to room temperature, the reaction mixture was dissolved in ethyl acetate and washed with 10% hydrochloric acid. After removal of N,N-diethylaniline, the reaction mixture was dried and concentrated. The residue was washed with hexane to give 7-chloro-5-fluoro-4-methoxycarbonylamino-2-methylbenzo[b]furan (3.8 g; yield, 87%). m.p., 168°-169° C.

reactant | 4-amino-7-chloro-5-fluoro-2-methylbenzo[b]furan | 3.4 g | NC1=C(C=C(C=2OC(=CC21)C)Cl)F | C9H7ClFNO
reactant | N,N-diethylaniline | 2.6 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | methyl chlorocarbonate | 1.6 g | C(OC)(=O)Cl | C2H3ClO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-chloro-5-fluoro-4-methoxycarbonylamino-2-methylbenzo[b]furan | 3.8 g, 87% | ClC1=CC(=C(C2=C1OC(=C2)C)NC(=O)OC)F | C11H9ClFNO3
